US06982263B2
Morpholine-4-carboxylic acid 1-[(benzyloxymethyl-cyano-methyl)-carbamoyl]-3-methyl-butyl ester (a) N-(t-butoxycarbonyl)-L-(O-benzyl)serinamide
To a solution of 2-hydroxy-4-methyl-pentanoic acid (2-benzyloxy-1-carbamoyl-ethyl)-amide (0.169 g, 0.55 mmol) in CH2Cl2 (5 mL) was added 4-morpholinecarbonyl chloride (0.082 g, 0.55 mmol), Et3N (0.15 mL, 1.1 mmol) and DMAP (0.034 g, 0.27 mmol). The resulting mixture was allowed to stir overnight (20 h) under argon at room temperature. When the reaction was complete the mixture was diluted with CH2Cl2 (10 mL), then washed with HCl (1.0 N, 10 mL), water and brine, dried over Na2SO4, and concentrated to give the desired product as an off-white oil in 0.20 g 86% yield of the crude product which was chromatographed (SiO2, 5% hexanes in EtOAc) to give desired product in (0.12 g, 52%). (e) Morpholine-4-carboxylic acid 1-[(benzyloxymethyl-cyano-methyl)-carbamoyl]-3-methyl-butyl Ester

reactant | 2-hydroxy-4-methyl-pentanoic acid (2-benzyloxy-1-carbamoyl-ethyl)-amide | 0.55 mmol, 0.169 g | C(C1=CC=CC=C1)OCC(C(N)=O)NC(C(CC(C)C)O)=O | C16H24N2O4
reactant | 4-morpholinecarbonyl chloride | 0.55 mmol, 0.082 g | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | Et3N | 1.1 mmol, 0.15 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.27 mmol, 0.034 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Morpholine-4-carboxylic acid 1-[(benzyloxymethyl-cyano-methyl)-carbamoyl]-3-methyl-butyl ester | C(C1=CC=CC=C1)OCC(C#N)NC(=O)C(CC(C)C)OC(=O)N1CCOCC1 | C21H29N3O5
